US05760035
A solution of propionyl chloride (2.37 g) in dichloromethane (10 ml) was added dropwise to a solution of 4-aminomethyl-1-(2-phenoxyethyl)piperidine (6.0 g) in dichloromethane (50 ml) and triethylamine (3.9 ml) at 0° C. The solution was allowed to warm up to ambient temperature with stirring and then stirred at this temperature for a further 2 hours. More propionyl chloride (0.3 ml) was added at ambient temperature and the solution stirred for a further half-hour. Further propionyl chloride (0.3 ml) was added and the mixture stirred for 1 hour. The mixture was extracted with 2M hydrochloric acid. The combined acidic extracts were washed with ethyl acetate, then basified with sodium hydroxide solution and extracted with dichloromethane to give an oil which solidified on standing to give N-[1-(2-phenoxyethyl)piperid-4-ylmethyl]propionamide, m.p. 85°-86° C.

reactant | propionyl chloride | 2.37 g | C(CC)(=O)Cl | C3H5ClO
reactant | 4-aminomethyl-1-(2-phenoxyethyl)piperidine | 6.0 g | NCC1CCN(CC1)CCOC1=CC=CC=C1 | C14H22N2O
reactant | propionyl chloride | 0.3 ml | C(CC)(=O)Cl | C3H5ClO
reactant | propionyl chloride | 0.3 ml | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | triethylamine | 3.9 ml | C(C)N(CC)CC | C6H15N
product | N-[1-(2-phenoxyethyl)piperid-4-ylmethyl]propionamide | O(C1=CC=CC=C1)CCN1CCC(CC1)CNC(CC)=O | C17H26N2O2
